US07074800B1
Using an analogous procedure to that described in Example 292, (2R)-4-(indol-5-yloxy)-6-methoxy-7-(oxiran-2-ylmethoxy)quinazoline (300 mg, 0.83 mmol), (prepared as described for the starting material in Example 292), was reacted with piperidine (211 mg, 2.49 mmol) to give (2R)-7-(2-hydroxy-3-piperidinopropoxy)-4-(indol-5-yloxy)-6-methoxyquinazoline (325 mg, 86%).

reactant | (2R)-4-(indol-5-yloxy)-6-methoxy-7-(oxiran-2-ylmethoxy)quinazoline | 0.83 mmol, 300 mg | N1C=CC2=CC(=CC=C12)OC1=NC=NC2=CC(=C(C=C12)OC)OC[C@@H]1OC1 | C20H17N3O4
reactant | piperidine | 2.49 mmol, 211 mg | N1CCCCC1 | C5H11N
product | (2R)-7-(2-hydroxy-3-piperidinopropoxy)-4-(indol-5-yloxy)-6-methoxyquinazoline | 325 mg, 86% | O[C@@H](COC1=C(C=C2C(=NC=NC2=C1)OC=1C=C2C=CNC2=CC1)OC)CN1CCCCC1 | C25H28N4O4
